US04224335
3-Acetamido-7-(benzyloxy)-1,2,3,4-tetrahydrocarbazole (16 g.) was hydrogenated in 200 ml. of ethyl alcohol containing 6 ml. of concentrated hydrochloric acid and 3 g. of 10% palladium on charcoal at 40 psig following a procedure similar to that described in Example 2B to yield 3-acetamido-7-hydroxy-1,2,3,4-tetrahydrocarbazole as a foam.

reactant | 3-Acetamido-7-(benzyloxy)-1,2,3,4-tetrahydrocarbazole | 16 g | C(C)(=O)NC1CCC=2NC3=CC(=CC=C3C2C1)OCC1=CC=CC=C1 | C21H22N2O2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethyl alcohol | 6 ml | C(C)O | C2H6O
product | 3-acetamido-7-hydroxy-1,2,3,4-tetrahydrocarbazole | C(C)(=O)NC1CCC=2NC3=CC(=CC=C3C2C1)O | C14H16N2O2
